US08076491B2
methyl 2-(4-hydroxybenzylamino)acetate
Prepared as in example 10-10a from glycine methyl ester and 4-hydroxybenzaldehyde. Yield 40%. MS M+H calculated 196.1; found 196.1

reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | methyl 2-(4-hydroxybenzylamino)acetate | Yield 40% | OC1=CC=C(CNCC(=O)OC)C=C1 | C10H13NO3
